US09278910B2
Prepared using General Procedure 6. To a suspension of methyl 2-((4-(5-(4′-methyl-[1,1′-biphenyl]-4-yl)-1,2,4-oxadiazol-3-yl)benzyl)amino)acetate INT-77 (50 mg, 0.121 mmol) and 2-fluoro-4-(2-(4-methoxy-2-(trifluoromethyl)phenyl)acetamido)benzoic acid INT-78 (44.9 mg, 0.121 mmol) in DMF (2 mL) were added HATU (50.6 mg, 0.133 mmol) and TEA (42.1 μL, 0.302 mmol). The reaction mixture was stirred at room temperature. After 60 h the reaction mixture was diluted with EA (20 mL) and washed with NaHCO3 (2×20 mL) and 1 M HCl (2×20 mL). The organics were dried over MgSO4 and concentrated in vacuo to afford 91 mg (98%) of methyl 2-(2-fluoro-4-(2-(4-methoxy-2-(trifluoromethyl)phenyl)acetamido)-N-(4-(5-(4′-methyl-[1,1′-biphenyl]-4-yl)-1,2,4-oxadiazol-3-yl)benzyl)benzamido)acetate INT-79 as a pale yellow solid. LCMS-ESI (m/z) calculated for C42H34F4N4O6: 766; found 767 [M+H]+, tR=3.27 min (Method 10).

reactant | methyl 2-((4-(5-(4′-methyl-[1,1′-biphenyl]-4-yl)-1,2,4-oxadiazol-3-yl)benzyl)amino)acetate | CC1=CC=C(C=C1)C1=CC=C(C=C1)C1=NC(=NO1)C1=CC=C(CNCC(=O)OC)C=C1 | C25H23N3O3
reactant | 2-fluoro-4-(2-(4-methoxy-2-(trifluoromethyl)phenyl)acetamido)benzoic acid | FC1=C(C(=O)O)C=CC(=C1)NC(CC1=C(C=C(C=C1)OC)C(F)(F)F)=O | C17H13F4NO4
reactant | HATU | 0.133 mmol, 50.6 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | EA | 20 mL | CC(OCC)=O | C4H8O2
product | methyl 2-(2-fluoro-4-(2-(4-methoxy-2-(trifluoromethyl)phenyl)acetamido)-N-(4-(5-(4′-methyl-[1,1′-biphenyl]-4-yl)-1,2,4-oxadiazol-3-yl)benzyl)benzamido)acetate | 91 mg, 98% | FC1=C(C(=O)N(CC2=CC=C(C=C2)C2=NOC(=N2)C2=CC=C(C=C2)C2=CC=C(C=C2)C)CC(=O)OC)C=CC(=C1)NC(CC1=C(C=C(C=C1)OC)C(F)(F)F)=O | C42H34F4N4O6
